US04243406
Ethyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate (50.0 g.; 0.17 mol.) was dissolved in 250 ml. of glacial acetic acid. To the mixture was added 250 ml. of hydrochloric acid and the resultant solution was rapidly stirred at 100° C. for 4 hours. The mixture was then allowed to cool and poured into 2 liters of water. The resultant precipitate was collected, dried, and recrystallized from pentane to yield 5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylic acid (40.0 g.; 93.6% yield) having a melting point of 122°-123° C. and the following analysis:

reactant | Ethyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate | 0.17 mol, 50.0 g | C(C)OC(=O)C=1C=NOC1C1=C(C=C(C=C1)Cl)Cl | C12H9Cl2NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2 liters | O | H2O
product | 5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylic acid | 40.0 g, 93.6% yield | ClC1=C(C=CC(=C1)Cl)C1=C(C=NO1)C(=O)O | C10H5Cl2NO3
